US08912188B2
To a solution of 2-(2-acetyl-4-bromophenoxy)acetic acid (5.3 g, 19.41 mmol) in acetic anhydride (100 mL) was added NaOAc (3.19 g, 38.90 mmol). The resulting solution was heated to reflux overnight. The pH value of the resulting solution was adjusted to 7 with aqueous sodium hydroxide, extracted with ether (50 mL×3), dried over anhydrous sodium sulfate and concentrated under vacuum to give a residue, which was purified by silica gel chromatography (petroleum ether) to afford 5-bromo-3-methyl-1-benzofuran as a light yellow oil (3.8 g, 93%).

reactant | 2-(2-acetyl-4-bromophenoxy)acetic acid | 19.41 mmol, 5.3 g | C(C)(=O)C1=C(OCC(=O)O)C=CC(=C1)Br | C10H9BrO4
reactant | NaOAc | 38.90 mmol, 3.19 g | CC(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 5-bromo-3-methyl-1-benzofuran | 3.8 g, 93% | BrC=1C=CC2=C(C(=CO2)C)C1 | C9H7BrO
